US07601711B2
(4,4-Difluoro-piperidin-1-yl)-[1-(2-hydroxy-ethyl)-5-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone
The solution of 90 mg (0.15 mmol) [1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone in 3 mL dichloromethane was cooled to 0° C. and 1.0 mL (1.49 g, 13.1 mmol) trifluoroacetic acid were added. The cooling bath was removed and after stirring for 1 h at room temperature the pH of the solution was neutralized by adding 1M aqueous sodium hydroxide solution. The phases were separated and the aqueous phase was extracted three times with dichloromethane. The combined organic layers were dried over magnesium sulfate, filtered and evaporated. The crude product was purified by flash column chromatography on silica gel with dichloromethane:methanol as eluant (gradient 100:0 to 50:50) to give 41 mg (56%) of the desired compound as a white foam.

reactant | [1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone | 0.15 mmol, 90 mg | C(C)(C)(C)[Si](OCCN1C(=CC2=CC(=CC=C12)C(=O)N1[C@@H](CCC1)CN1CCCC1)C(=O)N1CCC(CC1)(F)F)(C)C | C32H48F2N4O3Si
reactant | trifluoroacetic acid | 13.1 mmol, 1.0 mL, 1.49 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (4,4-Difluoro-piperidin-1-yl)-[1-(2-hydroxy-ethyl)-5-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone | 41 mg, 56% | FC1(CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)CCO)F | C26H34F2N4O3
